US08686002B2
3-(2-Fluoro-6-methoxybenzyl)quinolin-2-amine
The title compound was synthesized according to EXAMPLE 11 from 2-aminobenzaldehyde and 3-(2-fluoro-6-methoxyphenyl)propionitrile.

reactant | 2-aminobenzaldehyde | NC1=C(C=O)C=CC=C1 | C7H7NO
reactant | 3-(2-fluoro-6-methoxyphenyl)propionitrile | FC1=C(C(=CC=C1)OC)CCC#N | C10H10FNO
product | 3-(2-Fluoro-6-methoxybenzyl)quinolin-2-amine | FC1=C(CC=2C(=NC3=CC=CC=C3C2)N)C(=CC=C1)OC | C17H15FN2O
